US08034953B2
N-{4-[(Benzylamino)(hydroxyimino)methyl]-1,2,5-oxadiazol-3-yl}benzamide
This compound was prepared according to the procedure of Example 35 using 3-(4-amino-1,2,5-oxadiazol-3-yl)-4-benzyl-1,2,4-oxadiazol-5(4H)-one and benzoyl chloride as the starting materials. LCMS for C17H16N5O3 (M+H)+: m/z=338.2.

reactant | 3-(4-amino-1,2,5-oxadiazol-3-yl)-4-benzyl-1,2,4-oxadiazol-5(4H)-one | NC=1C(=NON1)C1=NOC(N1CC1=CC=CC=C1)=O | C11H9N5O3
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-{4-[(Benzylamino)(hydroxyimino)methyl]-1,2,5-oxadiazol-3-yl}benzamide | C(C1=CC=CC=C1)NC(C=1C(=NON1)NC(C1=CC=CC=C1)=O)=NO | C17H15N5O3
